US07790756B2
A solution of benzyl 6-(3-tert-butyl-5-(3-(2-fluoro-4-(2-(methylcarbamoyl)pyridin-4-yloxy)phenyl)ureido)-1H-pyrazol-1-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (93 mg, 0.13 mmol) in methanol (3 mL) was treated with 10% Pd/C (50% wet, 74 mg, 0.03 mmol) and formic acid (88%, 0.60 mL, 14 mmol). The resultant reaction mixture was stirred for 90 min and filtered through Celite, washing forward with methanol. The filtrate was concentrated in vacuo and purified on silica gel to provide 1-(3-tert-butyl-1-(1,2,3,4-tetrahydroisoquinolin-6-yl)-1H-pyrazol-5-yl)-3-(2-fluoro-4-(2-(methylcarbamoyl)pyridin-4-yloxy)phenyl)urea (42 mg, 56% yield). The product was treated with aqueous HCl (0.1 M, 0.75 mL) to provide 1-(3-tert-butyl-1-(1,2,3,4-tetrahydroisoquinolin-6-yl)-1H-pyrazol-5-yl)-3-(2-fluoro-4-(2-(methylcarbamoyl)pyridin-4-yloxy)phenyl)urea hydrochloride. 1H NMR (400 MHz, DMSO-d6) δ 9.38 (br s, 2H), 9.10 (d, J=1.8 Hz, 1H), 9.05 (s, 1H), 8.80 (m, 1H), 8.53 (d, J=5.4 Hz, 1H), 8.15 (t, J=9.1 Hz, 1H), 7.46-7.34 (m, 4H), 7.32 (dd, J=11.6, 2.8 Hz, 1H), 7.18 (m, 1H), 7.05 (m, 1H), 6.39 (s, 1H), 4.33 (br s, 2H), 3.40 (2H obscured by H2O), 3.09 (t, J=6.0 Hz, 2H), 2.79 (d, J=5.0 Hz, 3H), 1.28 (s, 9H); MS (ESI) m/z: 558.3 (M+H+).

reactant | benzyl 6-(3-tert-butyl-5-(3-(2-fluoro-4-(2-(methylcarbamoyl)pyridin-4-yloxy)phenyl)ureido)-1H-pyrazol-1-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.13 mmol, 93 mg | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C(NC)=O)F)C=1C=C2CCN(CC2=CC1)C(=O)OCC1=CC=CC=C1 | C38H38FN7O5
reactant | formic acid | 14 mmol, 0.60 mL | C(=O)O | CH2O2
solvent | methanol | 3 mL | CO | CH4O
catalyst | Pd/C | 0.03 mmol, 74 mg | [Pd] | Pd
product | 1-(3-tert-butyl-1-(1,2,3,4-tetrahydroisoquinolin-6-yl)-1H-pyrazol-5-yl)-3-(2-fluoro-4-(2-(methylcarbamoyl)pyridin-4-yloxy)phenyl)urea | 42 mg, 56% yield | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C(NC)=O)F)C=1C=C2CCNCC2=CC1 | C30H32FN7O3
